US04804665
8-tert-Butyloxycarbonyl-2-methoxycarbonylmethyloxy-2,8-diazaspiro[4,5]decane-1,3-dione
Employing 8-tert-butyloxycarbonyl-2-hydroxy-2,8-diazaspiro[4,5]decane-1,3-dione (0.56 g) and methylbromoacetate (190 μl), reaction was conducted in the same manner as in Example 40 to obtain an oily compound. This was separated by column chromatography (eluent; dichloromethane) to obtain 0.67 g of a coloress oily compound.

reactant | 8-tert-butyloxycarbonyl-2-hydroxy-2,8-diazaspiro[4,5]decane-1,3-dione | 0.56 g | C(C)(C)(C)OC(=O)N1CCC2(CC(N(C2=O)O)=O)CC1 | C13H20N2O5
reactant | methylbromoacetate | 190 μl | COC(CBr)=O | C3H5BrO2
product | 8-tert-Butyloxycarbonyl-2-methoxycarbonylmethyloxy-2,8-diazaspiro[4,5]decane-1,3-dione | 0.67 g | C(C)(C)(C)OC(=O)N1CCC2(CC(N(C2=O)OCC(=O)OC)=O)CC1 | C16H24N2O7
